US07772268B2
6-Fluoro-1-(4-trifluoromethylpiperidine-1-carbonyl)-1H-indazol-3-yl 4-trifluoromethyl-piperidine-1-carboxylate
In analogy to example 1, 200 mg (1.315 mmol) of 6-fluoro-1H-indazol-3-ol were reacted with 340 mg (1.578 mmol) of 4-trifluoromethylpiperidine-1-carbonyl chloride. Yield: 8 mg (1%), M+H+: 511.36.

reactant | 6-fluoro-1H-indazol-3-ol | 1.315 mmol, 200 mg | FC1=CC=C2C(=NNC2=C1)O | C7H5FN2O
reactant | 4-trifluoromethylpiperidine-1-carbonyl chloride | 1.578 mmol, 340 mg | FC(C1CCN(CC1)C(=O)Cl)(F)F | C7H9ClF3NO
product | 6-Fluoro-1-(4-trifluoromethylpiperidine-1-carbonyl)-1H-indazol-3-yl 4-trifluoromethyl-piperidine-1-carboxylate | FC(C1CCN(CC1)C(=O)OC1=NN(C2=CC(=CC=C12)F)C(=O)N1CCC(CC1)C(F)(F)F)(F)F | C21H21F7N4O3
